US07728154B2
6.0 Grams (0.05 mols) of magnesium sulfate and 500 mL of toluene were added to 53.3 g (0.20 mols) of 7b-benzo[1,3]dioxole-5-yl-1a,2,3,7-tetrahydro-1-oxacyclopropa[a]naphthalene, and the mixture was heated at 80° C. for 2 hours. After cooled, the reaction product was washed two times each with 250 mL of water, and the organic layer was condensed under reduced pressure to obtain 1-benzo[1,3]dioxole-5-yl-3,4-dihydro-1H-naphthalene-2-one represented by the following formula,

reactant | magnesium sulfate | 0.05 mols | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | 7b-benzo[1,3]dioxole-5-yl-1a,2,3,7-tetrahydro-1-oxacyclopropa[a]naphthalene | 0.20 mols, 53.3 g | O1COC2=C1C=CC(=C2)C21C(CCC=3C=CCCC23)O1 | C17H16O3
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | 1-benzo[1,3]dioxole-5-yl-3,4-dihydro-1H-naphthalene-2-one | O1COC2=C1C=CC(=C2)C2C(CCC1=CC=CC=C21)=O | C17H14O3
